US08975254B2
e) N—((S)-1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)-2-(1-hydroxyethyl)thiazole-4-carboxamide
2-(1-(tert-butyldiphenylsilyloxy)ethyl)-N—((S)-1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)thiazole-4-carboxamide (264 mg, 0.403 mmol) dissolved in THF (20 ml) and tetrabutylammonium fluoride, 1.0 M solution in THF (0.41 ml, 0.410 mmol), were added into a flask and stirred at RT overnight. After reacting for an hour, more of tetrabutylammonium fluoride, 1.0 M solution in THF (0.41 ml, 0.410 mmol), was added. The crude product was dried by evaporating and extracted with DCM/water. The organic phase was isolated with phase separator and evaporated. The product was purified by flash chromatography and recrystallization from ethyl acetate/heptane, respectively. 1H-NMR (400 MHz; DMSO-d6): δ 1.10-1.15 (m, 3H), 1.46 (t, 3H), 4.29-4.52 (m, 3H), 4.93-5.01 (m, 1H), 6.24 (s, 1H), 6.94-6.98 (m, 1H), 7.83-7.87 (m, 1H), 7.92-8.00 (m, 2H), 8.08 (s, 1H), 8.10 (d, 1H), 8.33-8.39 (m, 1H).

reactant | 2-(1-(tert-butyldiphenylsilyloxy)ethyl)-N—((S)-1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)thiazole-4-carboxamide | 0.403 mmol, 264 mg | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC(C)C=1SC=C(N1)C(=O)N[C@H](CN1N=C(C=C1)C1=CC(=C(C=C1)C#N)Cl)C | C35H36ClN5O2SSi
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 0.410 mmol, 0.41 ml | C1CCOC1 | C4H8O
solvent | THF | 0.410 mmol, 0.41 ml | C1CCOC1 | C4H8O
product | N—((S)-1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)-2-(1-hydroxyethyl)thiazole-4-carboxamide | ClC=1C=C(C=CC1C#N)C1=NN(C=C1)C[C@H](C)NC(=O)C=1N=C(SC1)C(C)O | C19H18ClN5O2S
